US05578627
To a solution of 0.59 g of 5-amino-3-(2-tert-butoxycarbonylamino-3-hydroxypropoxy)-1,2-benzoisoxazole in 12 ml of methylene chloride is added 0.17 g of acetic formic anhydride at 5°-10° C., and they are subjected to reaction at 20°-25° C. for one hour. The solvent is removed from the reaction mixture by distillation under reduced pressure, and the residue obtained is crystallized from n-hexane, after which the crystals are collected by filtration, to obtain 0.52 g of colorless, crystalline 3-(2-tert-butoxycarbonylamino-3-hydroxypropoxy)-5-formylamino-1,2-benzoisoxazole having a melting point of 104°-105° C.

reactant | 5-amino-3-(2-tert-butoxycarbonylamino-3-hydroxypropoxy)-1,2-benzoisoxazole | 0.59 g | NC=1C=CC2=C(C(=NO2)OCC(CO)NC(=O)OC(C)(C)C)C1 | C15H21N3O5
reactant | acetic formic anhydride | 0.17 g | C(=O)OC(C)=O | C3H4O3
solvent | methylene chloride | 12 ml | C(Cl)Cl | CH2Cl2
product | 3-(2-tert-butoxycarbonylamino-3-hydroxypropoxy)-5-formylamino-1,2-benzoisoxazole | C(C)(C)(C)OC(=O)NC(COC1=NOC2=C1C=C(C=C2)NC=O)CO | C16H21N3O6
